US07495103B2
To a solution of 1-tert-butyl-4-nitrobenzene (8.95 g, 50 mmol) and silver sulfate (10 g, 32 mmol) in 50 mL of 90% sulfuric acid was added dropwise bromine (7.95 g, 50 mmol). Stirring was continued at room temperature overnight, and then the mixture was poured into dilute sodium hydrogen sulfite solution and was extracted with EtOAc three times. The combined organic layers were washed with brine and dried over MgSO4. After filtration, the filtrate was concentrated to give 2-bromo-1-tert-butyl-4-nitrobenzene (12.7 g, 98%), which was used without further purification. 1H NMR (400 MHz, CDCl3) δ 8.47 (d, J=2.5 Hz, 1H), 8.11 (dd, J=8.8, 2.5 Hz, 1H), 7.63 (d, J=8.8 Hz, 1H), 1.57 (s, 9H); HPLC ret. time 4.05 min, 10-100% CH3CN, 5 min gradient.

reactant | 1-tert-butyl-4-nitrobenzene | 50 mmol, 8.95 g | C(C)(C)(C)C1=CC=C(C=C1)[N+](=O)[O-] | C10H13NO2
reactant | bromine | 50 mmol, 7.95 g | BrBr | Br2
reactant | sodium hydrogen sulfite | S(=O)(O)[O-].[Na+]
solvent | sulfuric acid | 50 mL | S(O)(O)(=O)=O | H2O4S
catalyst | silver sulfate | 32 mmol, 10 g | S(=O)(=O)([O-])[O-].[Ag+2]
product | 2-bromo-1-tert-butyl-4-nitrobenzene | 12.7 g, 98% | BrC1=C(C=CC(=C1)[N+](=O)[O-])C(C)(C)C | C10H12BrNO2
